US06605629B1
A mixture of ethyl 6-(4-fluorophenyl)-6-oxo-5-phenoxycarbonyloxyhexanoate (18.0 g), ammonium acetate (17.8 g) and acetic acid (100 ml) was stirred with heating under reflux for 2 hours. The reaction mixture was poured into water (500 ml) and extracted with ethyl acetate (200 ml×2), and the extract was washed with water (200 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 4-[4-(4-fluorophenyl)-2-oxo-4-oxazolin-5-yl]butanoate was obtained as an oil (7.67 g, 56%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | ethyl 6-(4-fluorophenyl)-6-oxo-5-phenoxycarbonyloxyhexanoate | 18.0 g | FC1=CC=C(C=C1)C(C(CCCC(=O)OCC)OC(=O)OC1=CC=CC=C1)=O | C21H21FO6
reactant | ammonium acetate | 17.8 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | ethyl 4-[4-(4-fluorophenyl)-2-oxo-4-oxazolin-5-yl]butanoate | FC1=CC=C(C=C1)C=1NC(OC1CCCC(=O)OCC)=O | C15H16FNO4
